US06017919
Dimethyl 4-hydroxyphthalate (10.0 g, 47 mmol) was dissolved in DMF (100 ml), and potassium carbonate (30 g, 217 mmol) and n-amyl bromide (10 ml, 80 mmol) were added to this solution. The mixture was stirred at 90° C. for 2 hours, and the solid was removed by filtration through Celite. The filtrate was concentrated under reduced pressure. The obtained residue was purified by column chromatography on silica gel (hexane/ethyl acetate=4/1) to give dimethyl 4-pentyloxyphthalate (12.7 g, 45.4 mmol, 97%) as a colorless oil.

reactant | Dimethyl 4-hydroxyphthalate | 47 mmol, 10.0 g | OC=1C=C(C(C(=O)OC)=CC1)C(=O)OC | C10H10O5
reactant | potassium carbonate | 217 mmol, 30 g | C([O-])([O-])=O.[K+].[K+]
reactant | n-amyl bromide | 80 mmol, 10 ml | CCCCCBr | C5H11Br
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | dimethyl 4-pentyloxyphthalate | 45.4 mmol, 12.7 g, 97% | C(CCCC)OC=1C=C(C(C(=O)OC)=CC1)C(=O)OC | C15H20O5
